US07012089B2
7-Chloro-4-methyl-3,4,5,6-tetrahydro-1H-benzo[e][1,4]diazocin-2-one
{[2-(2-chloro-6-nitro-phenyl)-ethyl]-methyl-amino}-acetic acid (12 g, approximately 0.049 molE, not quite pure) in methanol (250 mL) containing platinum on sulfided carbon (5 wt. %, 1.2 g) was hydrogenated at room temperature and a hydrogen pressure of 50 psi overnight. The catalyst was removed by filtration through Celite and the filtrate was evaporated to dryness in vacuo. The residue was dissolved in pyridine (1.5 L) and the solution was cooled to 0° C., and 1,3-dicyclohexylcarbodiimide (20.0 g, 0.097 mole) was added. The reaction mixture was allowed to warm up to room temperature and stirred at room temperature for 48 hours. The solvent was removed and the residue was slurried with 10% hydrochloric acid and filtered. The filtrate was extracted with ether, the aqueous phase was made basic with sodium carbonate and then extracted with dichloromethane. The extract was dried over sodium sulfate and evaporated in vacuo. Purification by flash column chromatography (silica gel, methylene chloride) provided 4.0 g of the title compound as a white solid. 1H NMR (CDCl3): 7.50 δ (broad, 1H); 7.30 δ (d, 1H); 7.20 δ (s, 1H); 7.00 δ (d, 1H); 3.18 δ (s, 2H); 2.80 δ (broad s, 4H); 2.40 δ (s, 3H). MS(ES) m/z 225 ([M+H]+).

reactant | {[2-(2-chloro-6-nitro-phenyl)-ethyl]-methyl-amino}-acetic acid | ClC1=C(C(=CC=C1)[N+](=O)[O-])CCN(C)CC(=O)O | C11H13ClN2O4
reactant | hydrogen | [H][H] | H2
reactant | 1,3-dicyclohexylcarbodiimide | 0.097 mole, 20.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methanol | 250 mL | CO | CH4O
catalyst | platinum | [Pt] | Pt
product | 7-Chloro-4-methyl-3,4,5,6-tetrahydro-1H-benzo[e][1,4]diazocin-2-one | 4.0 g | ClC1=CC=CC=2NC(CN(CCC21)C)=O | C11H13ClN2O
